US09079861B2
To a solution of (S)-1-((S)-1-(4-bromophenyl)ethyl)-4-(2-hydroxy-2-methylpropyl)-4-phenyltetrahydropyrimidin-2(1H)-one (260 mg, 0.6 mmol) and 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (244 mg, 0.96 mmol) in dry DMSO (20 mL) was added KOAc (188 mg, 1.92 mmol) and Pd(dppf)Cl2 (14.7 mg, 0.02 mmol) under N2 atmosphere. After addition, the mixture was warmed to 90° C. for 2 h. When TLC showed the starting material had disappeared, the solid was filtered off. Water (50 mL) and EtOAc (50 mL) were added, and the mixture was extracted with EtOac (3×50 mL). The combined organic layer was washed with brine (50 mL), dried over Na2SO4, filtered, and concentrated. The residue was purified by prep TLC to afford (S)-4-(2-hydroxy-2-methylpropyl)-4-phenyl-1-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)tetrahydropyrimidin-2(1H)-one (0.2 g, yield: 70%).

reactant | (S)-1-((S)-1-(4-bromophenyl)ethyl)-4-(2-hydroxy-2-methylpropyl)-4-phenyltetrahydropyrimidin-2(1H)-one | 0.6 mmol, 260 mg | BrC1=CC=C(C=C1)[C@H](C)N1C(N[C@](CC1)(C1=CC=CC=C1)CC(C)(C)O)=O | C22H27BrN2O2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 0.96 mmol, 244 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 1.92 mmol, 188 mg | CC(=O)[O-].[K+]
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
catalyst | Pd(dppf)Cl2 | 0.02 mmol, 14.7 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (S)-4-(2-hydroxy-2-methylpropyl)-4-phenyl-1-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)tetrahydropyrimidin-2(1H)-one | 0.2 g, yield: 70% | OC(C[C@]1(NC(N(CC1)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O)C1=CC=CC=C1)(C)C | C28H39BN2O4
